US05932601
To a solution of methyl (R)-(-)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-hydroxy-pentanoate (3.15 g) in pyridine (50 ml) was added 4-nitrophenyl chloroformate (2.3 g), in limited amounts, at room temperature. The mixture was stirred for one hour. The reaction mixture was poured into water, which was acidified with 2N HCl, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:2), was obtained methyl (R)-(+)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-(4-nitrophenoxycarbonyloxy)pentanoate (4.3 g, 98%).

reactant | methyl (R)-(-)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-hydroxy-pentanoate | 3.15 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCC[C@H](C(=O)OC)O)OC)C | C22H25NO7
reactant | 4-nitrophenyl chloroformate | 2.3 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | water | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | methyl (R)-(+)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-(4-nitrophenoxycarbonyloxy)pentanoate | 4.3 g, 98% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCC[C@H](C(=O)OC)OC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C | C29H28N2O11
